US04910200
(a) 3,4-Dimethoxy-4'-phenyl-benzophenone
300 g of veratrole was added dropwise over a period of 30 minutes to a suspension of 300 g of aluminum chloride in 300 ml of methylene chloride, taking care that the internal temperature did not exceed 30° C. Then, 450 g of biphenyl-4-carboxylic acid chloride were added in portions over a period of 30 minutes, while stirring and cooling (internal temperature 20°-25° C.). The resulting mixture was stirred for 4 hours at room temperature and was then poured into a mixture of 2 kg of ice/500 ml of concentrated hydrochloric acid. After the organic phase had been separated, the aqueous phase was extracted twice more with methylene chloride.

reactant | veratrole | 300 g | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | aluminum chloride | 300 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | biphenyl-4-carboxylic acid chloride | 450 g | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 3,4-Dimethoxy-4'-phenyl-benzophenone | COC=1C=C(C(=O)C2=CC=C(C=C2)C2=CC=CC=C2)C=CC1OC | C21H18O3
